US09126998B2
3-(Dibenzylamino)oxetane-3-carbonitrile
0.63 ml (10.8 mmol) of oxetan-3-one and 3.6 ml (27.1 mmol) of trimethylsilyl cyanide were added to 10.4 ml (54.1 mmol) of dibenzylamine in 72 ml of acetic acid. The reaction mixture was then stirred at RT overnight. The mixture was then concentrated, the residue was dissolved in water/diethyl ether and the aqueous phase was extracted twice with diethyl ether. The combined organic phases were washed twice with saturated aqueous sodium bicarbonate solution, dried over sodium sulphate, filtered and concentrated. The residue was purified by silica gel chromatography (cyclohexane/ethyl acetate from 40:1 to 30:1). This gave 2.39 g (77% of theory, purity 97%) of the target compound.

reactant | oxetan-3-one | 10.8 mmol, 0.63 ml | O1CC(C1)=O | C3H4O2
reactant | trimethylsilyl cyanide | 27.1 mmol, 3.6 ml | C[Si](C)(C)C#N | C4H9NSi
reactant | dibenzylamine | 54.1 mmol, 10.4 ml | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
solvent | acetic acid | 72 ml | C(C)(=O)O | C2H4O2
product | 3-(Dibenzylamino)oxetane-3-carbonitrile | C(C1=CC=CC=C1)N(C1(COC1)C#N)CC1=CC=CC=C1 | C18H18N2O
